US07943647B2
b1) Preparation of (S)-3-Methyl-2-((2′-(1H-tetrazol-5-yl)-biphenyl-4-ylmethyl)-amino)-butyric acid
Aqueous sodium hydroxide solution 2.0 M (approximately 100 ml; 200 mmol) is added to a stirred suspension of L-Valin (11.8 g; 100 mmol) and 2′-(1H-tetrazol-5-yl)-biphenyl-4-carbaldehyde (25.1 g; 100 mmol) in water (100 ml) at room temperature, until pH 11 is reached. The resulting clear solution is evaporated at 60° C. in vacuo, and remaining water is azeotro-pically removed with 1-butanol. The residue (imine as a solid foam) is dissolved in absolute ethanol (300 ml), and sodium borohydride (3.78 g; 100 mmol) is added in portions to the solution at 0-5° C. The reaction mixture is stirred for 30 min at 0-5° C., and, it the reaction is complete (HPLC), quenched by addition of water (100 ml) and hydrochloric acid 2.0 M (80 ml; 160 mmol). The organic solvent (ethanol) is stripped off from the clear solution (pH 7) at 50° C. in vacuo. The remaining aqueous concentrate is adjusted to pH 2 by slow addition of hydrochloric acid 2.0 M (approximately 70 ml; 140 mmol) at 40° C. During the addition the desired product precipitates. It is collected by filtration, washed with water and dried in vacuo. The crude product is suspended in methanol at 50° C., and the slurry is cooled to room temperature. (S)-3-methyl-2-((2′-(1H-tetrazol-5-yl)-biphenyl-4-yl-methyl)-amino)-butyric acid is collected by filtration and then dried in vacuo.

reactant | sodium hydroxide | 200 mmol, 2.0 M, approximately 100 ml | [OH-].[Na+]
reactant | L-Valin | 100 mmol, 11.8 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | 2′-(1H-tetrazol-5-yl)-biphenyl-4-carbaldehyde | 100 mmol, 25.1 g | N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)C=O | C14H10N4O
reactant | sodium borohydride | 100 mmol, 3.78 g | [BH4-].[Na+]
reactant | hydrochloric acid | 160 mmol, 2.0 M, 80 ml | Cl | ClH
reactant | hydrochloric acid | 140 mmol, 2.0 M, approximately 70 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | water | 100 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | (S)-3-Methyl-2-((2′-(1H-tetrazol-5-yl)-biphenyl-4-ylmethyl)-amino)-butyric acid | CC([C@@H](C(=O)O)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C | C19H21N5O2
